US04720445
Preparation of Maleimide-Octadecyl Vinyl Ether Copolymer
A polymer was prepared in the manner of Example 1, except the comonomer to maleimide was n-octadecyl vinyl ether. The polymer yield was 61%.

reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | n-octadecyl vinyl ether | C(=C)OCCCCCCCCCCCCCCCCCC | C20H40O
product | Maleimide Octadecyl Vinyl Ether | yield was 61% | C1(C=CC(N1)=O)=O.C(=C)OCCCCCCCCCCCCCCCCCC | InChI=1S/C20H40O.C4H3NO2/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-4-2;6-3-1-2-4(7)5-3/h4H,2-3,5-20H2,1H3;1-2H,(H,5,6,7)
